US04643990
Starting from N-[3-(9-octadecenoyloxy)-11-eicosenoyl]-L-valine (2.7 g) and L-glutamic acid (2.2 g), N-[N-[3-(9-octadecenoyloxy)-11-eicosenoyl]-L-valyl]-L-glutamic acid (1.0 g) was obtained as powder according to a similar manner to that of Example 2.

reactant | N-[3-(9-octadecenoyloxy)-11-eicosenoyl]-L-valine | 2.7 g | C(CCCCCCCC=CCCCCCCCC)(=O)OC(CC(=O)N[C@@H](C(C)C)C(=O)O)CCCCCCCC=CCCCCCCCC | C43H79NO5
reactant | L-glutamic acid | 2.2 g | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
product | N-[N-[3-(9-octadecenoyloxy)-11-eicosenoyl]-L-valyl]-L-glutamic acid | 1.0 g | C(CCCCCCCC=CCCCCCCCC)(=O)OC(CC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(=O)O)C(=O)O)CCCCCCCC=CCCCCCCCC | C48H86N2O8
